US07504401B2
A mixture of the 3,5-dibromo-1-p-methoxy-benzyloxybenzene (250 mg, 0.672 mmol) and 3-hydroxypyridine (128 mg, 1.34 mmol) and 96 mg (0.67 mmol) copper oxide in 3 mL of collidine was treated with sodium hydride (27 mg, 0.67 mmol) in a stirred tube. After 10 minutes to allow off-gassing, the tube was sealed and the reaction mixture was heated to 210° C. bath temperature overnight. It was then cooled and treated with ethyl acetate and aqueous ammonium hydroxide, and filtered through Celite®. The phases were separated, and the aqueous phase was extracted with additional ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated. The product was chromatographed (33% ethyl acetate/hexane) to give 66 mg of product 3-[3-bromo-5-(4-methoxy-benzyloxy)-phenoxy]-pyridine (25% yield). This material was converted to 3-(1H-indol-4-yl)-5-(pyridin-3-yloxy)-phenol as described in Example 35. 1H NMR (400 MHz, CD3OD): δ 11.22 (s, 1H), 9.77 (s, 1H), 8.43 (d, J=2.5 Hz, 1H), 8.36 (d, J=3.5 Hz, 1H), 7.53 (ddd, J=8.4, 2.7,1.3 Hz, 1H), 7.42 (dd, J=8.4, 4.7Hz, 1H), 7.36 (dd, J=5.4, 2.4Hz, 2H), 7.11 (t, J=7.7 Hz, 1H), 7.00 (d, J=7.0 Hz, 1H), 6.86 (s, 1H), 6.65 (s, 1H), 6.45 (s, 1H), 6.40 (t, J=2.0 Hz, 1H).

reactant | 3,5-dibromo-1-p-methoxy-benzyloxybenzene | 0.672 mmol, 250 mg | BrC=1C=C(C=C(C1)Br)OCC1=CC=C(C=C1)OC | C14H12Br2O2
reactant | 3-hydroxypyridine | 1.34 mmol, 128 mg | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | 0.67 mmol, 27 mg | [H-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | collidine | 3 mL | N1=C(C=C(C=C1C)C)C | C8H11N
catalyst | copper oxide | 0.67 mmol, 96 mg | [Cu]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-bromo-5-(4-methoxy-benzyloxy)-phenoxy]-pyridine | 25% yield | BrC=1C=C(OC=2C=NC=CC2)C=C(C1)OCC1=CC=C(C=C1)OC | C19H16BrNO3
